US07834052B2
4-Chloro-2-[(2-chloro-acetyl)-(2-chloro-ethyl)-amino]-6-methyl-10,10dioxo-10,11-dihydro-5-oxa-10lambda*6*-thia-dibenzo[a,d]-cycloheptene-8-carboxylic acid methyl ester
4-Chloro-2-(2-chloro-ethylamino)-6-methyl-10,10-dioxo-10,11-dihydro-5-oxa-10lambda*6*-thia-dibenzo[a,d]-cycloheptene-8-carboxylic acid methyl ester (prepared by following the method described in example 29a or example 29b, 1.9 gm, 4.4 mmol) was added to chloroacetyl chloride (6 mL) at room temperature. Reaction mixture was then stirred at 90° C. for 1 h. Reaction mixture was cooled and diluted using ice water (100 mL). The solid separated was filtered, washed with water and dried to obtain the title compound. Yield: 1.85 g, (83%); 1H NMR (DMSO-d6, 300 MHz): δ 2.60 (s, 3H, CH3), 3.67 (t, 2H, CH2), 3.88 (s, 3H, OCH3), 3.99 (t, 2H, CH2), 4.27 (bs, 2H, CH2), 5.31 (s, 2H, CH2), 7.66 (s, 1H, Ar), 7.80 (s, 1H, Ar), 8.17 (s, 1H, Ar), 8.19 (s, 1H, Ar); MS: m/e (ES+) 505 (M+1).

reactant | 4-Chloro-2-(2-chloro-ethylamino)-6-methyl-10,10-dioxo-10,11-dihydro-5-oxa-10lambda*6*-thia-dibenzo[a,d]-cycloheptene-8-carboxylic acid methyl ester | COC(=O)C=1C=C(C2=C(S(CC3=C(O2)C(=CC(=C3)NCCCl)Cl)(=O)=O)C1)C | C18H17Cl2NO5S
reactant | chloroacetyl chloride | 6 mL | ClCC(=O)Cl | C2H2Cl2O
product | 4-Chloro-2-[(2-chloro-acetyl)-(2-chloro-ethyl)-amino]-6-methyl-10,10dioxo-10,11-dihydro-5-oxa-10lambda*6*-thia-dibenzo[a,d]-cycloheptene-8-carboxylic acid methyl ester | COC(=O)C=1C=C(C2=C(S(CC3=C(O2)C(=CC(=C3)N(CCCl)C(CCl)=O)Cl)(=O)=O)C1)C | C20H18Cl3NO6S
